US08247418B2
STEP 3. N-(4-(3-CHLOROPYRAZIN-2-YLOXY)PHENYL)-1H-BENZO[D]IMIDAZOL-2-AMINE
The mixture of 2-chloro-3-(4-isothiocyanatophenoxy)pyrazine (190 mg, 721 mmol), benzene-1,2-diamine (93.5 mg, 865 μmol) and N,N′-dicyclohexylcarbodiimide (223 mg, 1081 μmol) in THF (1.5 ml) was heated at 75° C. for 1.5 hrs. The mixture was cooled to room temperature, diluted with DCM and absorbed onto silica for purification using a 20-100% EtOAc/hexanes gradient to give the desired product.

reactant | 2-chloro-3-(4-isothiocyanatophenoxy)pyrazine | 721 mmol, 190 mg | ClC1=NC=CN=C1OC1=CC=C(C=C1)N=C=S | C11H6ClN3OS
reactant | benzene-1,2-diamine | 865 μmol, 93.5 mg | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | N,N′-dicyclohexylcarbodiimide | 1081 μmol, 223 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-(3-CHLOROPYRAZIN-2-YLOXY)PHENYL)-1H-BENZO[D]IMIDAZOL-2-AMINE | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)NC1=NC2=C(N1)C=CC=C2 | C17H12ClN5O
